US08183246B2
(6R)-6-{[6-(2-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]oxy}heptanoic acid tert.-butyl ester
Add 87 mg (2.16 mmol) sodium hydride (60% dispersion in mineral oil) to a solution of 350 mg (1.73 mmol) (6R)-6-hydroxyheptanoic acid tert.-butyl ester in 5 ml THF, with ice cooling. After stirring for ten minutes with ice cooling, add a solution of 644 mg (1.82 mmol) 4-chloro-6-(2-fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidine in 5 ml THF and 32 mg (0.09 mmol) tetra-n-butylammonium iodide. Stir the reaction mixture for 48 h at RT. After adding water and ethyl acetate, wash the separated organic phase with 1 N hydrochloric acid and concentrate by vacuum evaporation. Take up the residue in acetonitrile/DMSO and purify by preparative RP-HPLC (gradient: water/acetonitrile). 425 mg (47% of theor.) of the desired product is obtained.

reactant | sodium hydride | 2.16 mmol, 87 mg | [H-].[Na+]
reactant | (6R)-6-hydroxyheptanoic acid tert.-butyl ester | 1.73 mmol, 350 mg | C(C)(C)(C)OC(CCCC[C@@H](C)O)=O | C11H22O3
reactant | 4-chloro-6-(2-fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidine | 1.82 mmol, 644 mg | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=C(C=CC=C2)F | C19H12ClFN2O2
reactant | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | tetra-n-butylammonium iodide | 0.09 mmol, 32 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6R)-6-{[6-(2-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]oxy}heptanoic acid tert.-butyl ester | C(C)(C)(C)OC(CCCC[C@@H](C)OC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=C(C=CC=C2)F)=O | C30H33FN2O5
